US04083849
73 Parts of n-butylamine are added to 109 l parts of methyl chloroacetate at from 10° to 15° C. The reaction mixture is stirred for a further 2 hours at 15° C and 125 parts of dimethylformamide and 167 parts of a 30 percent strength by weight aqueous sodium cyanide solution are then added. The mixture is stirred for 5 hours at 40° C. After adding 116 l parts of methyl acetoacetate and 123 parts of a 21 percent strength by weight aqueous ammonia solution, the mixture is stirred for 4 hours at 90° C and is worked up as described in Example 1. 120 parts of 1-butyl-2-hydroxy-5-cyano-4-methylpyrid-6-one (58% of theory, based on methyl chloroacetate) of melting point 218°-222° C are obtained.

reactant | n-butylamine | C(CCC)N | C4H11N
reactant | methyl chloroacetate | ClCC(=O)OC | C3H5ClO2
reactant | sodium cyanide | [C-]#N.[Na+]
reactant | methyl acetoacetate | C(CC(=O)C)(=O)OC | C5H8O3
reactant | ammonia | N | H3N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-butyl-2-hydroxy-5-cyano-4-methylpyrid-6-one | 58% | C(CCC)N1C(=CC(=C(C1=O)C#N)C)O | C11H14N2O2
